US08003654B2
10) Synthesis of ethyl-isoxazol-5-ylmethyl-amine
prepared by reaction of the 5-bromomethyl-isoxazole (Deshong P. et al J. Org. Chem. 1988, 53, 7, 1356-1364) with 2M ethylamine in THF.

reactant | 5-bromomethyl-isoxazole | BrCC1=CC=NO1 | C4H4BrNO
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-isoxazol-5-ylmethyl-amine | C(C)NCC1=CC=NO1 | C6H10N2O
